US06420341B1
11-phenoxy-undecanoyl Chloride
250 mg of 11-phenoxy undecanoic acid (commercial) is mixed with 2 ml of pure thionyl chloride and the whole is left overnight at ambient temperature. In this way 265 mg of expected product is obtained.

reactant | 11-phenoxy undecanoic acid | 250 mg | O(C1=CC=CC=C1)CCCCCCCCCCC(=O)O | C17H26O3
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
product | 11-phenoxy-undecanoyl Chloride | 265 mg | O(C1=CC=CC=C1)CCCCCCCCCCC(=O)Cl | C17H25ClO2
